US07704996B2
To a suspension of 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid (2.1 mmol) in CH2Cl2 (20 mL) are added oxalyl chloride (4.2 mmol) and one drop of DMF at 0° C. After stirred at room temperature for 3 h under N2 atmosphere, the reaction mixture is concentrated and dried in vacuo, to give 4,6-dichloro-2-methylsulfanylpyrimidine-5-carbonyl chloride as a yellow crystal.

reactant | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carboxylic acid | 2.1 mmol | ClC1=NC(=NC(=C1C(=O)O)Cl)SC | C6H4Cl2N2O2S
reactant | oxalyl chloride | 4.2 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 4,6-dichloro-2-methylsulfanylpyrimidine-5-carbonyl chloride | ClC1=NC(=NC(=C1C(=O)Cl)Cl)SC | C6H3Cl3N2OS
